US09212182B2
A vial was charged with 1-(4-bromo-5-chloro-2-methoxyphenyl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.370 g, 0.700 mmol), (3-fluorophenyl)boronic acid (0.147 g, 1.050 mmol), potassium carbonate (0.290 g, 2.099 mmol), and Pd(Ph3P)4 (0.081 g, 0.88 mmol). The vial was flushed with Ar (g), then 1,4-dioxane (2.62 mL) and water (0.070 mL) were added. The vial was sealed and heated to 90° C. for 30 min. The mixture was cooled and extracted with EtOAc (5×), and the combined organic extracts were concentrated. The residue was purified via column chromatography (silica gel 40 g, gradient elution 0 to 50% EtOAc:Heptane) to afford racemic 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide. 1H NMR (400 MHz, DMSO-d6) δ=12.02 (br. s., 1H), 8.74 (d, J=1.66 Hz, 1H), 8.49 (d, J=7.63 Hz, 1H), 8.26 (d, J=9.59 Hz, 1H), 7.69 (s, 1H), 7.59 (dt, J=6.36, 8.02 Hz, 1H), 7.42-7.48 (m, 2H), 7.29-7.36 (m, 2H), 6.79 (d, J=9.68 Hz, 1H), 6.67 (d, J=12.03 Hz, 1H), 6.40 (d, J=1.76 Hz, 1H), 3.75 (s, 3H). m/z (ESI) 544.1 (M+H)+. This material was purified by chiral SFC on Chiralpak AS-H column (25% MeOH/75% CO2) to give (P)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 2, both as off-white solids. Data for peak 1: 1H NMR (400 MHz, DMSO-d6) δ=12.02 (br. s., 1H), 8.74 (d, J=1.76 Hz, 1H), 8.49 (d, J=7.77 Hz, 1H), 8.21-8.30 (m, 1H), 7.66-7.71 (m, 1H), 7.54-7.63 (m, 1H), 7.42-7.49 (m, 2H), 7.28-7.37 (m, 2H), 6.79 (d, J=9.64 Hz, 1H), 6.67 (d, J=11.92 Hz, 1H), 6.40 (d, J=1.76 Hz, 1H), 3.75 (s, 3H). m/z (ESI) 544.1 (M+H)+. Data for peak 2: 1H NMR (400 MHz, DMSO-d6) δ=12.02 (br. s., 1H), 8.74 (d, J=1.76 Hz, 1H), 8.49 (d, J=7.77 Hz, 1H), 8.26 (d, J=9.64 Hz, 1H), 7.69 (s, 1H), 7.53-7.63 (m, 1H), 7.42-7.49 (m, 2H), 7.29-7.38 (m, 2H), 6.79 (d, J=9.64 Hz, 1H), 6.67 (d, J=11.92 Hz, 1H), 6.40 (d, J=1.87 Hz, 1H), 3.75 (s, 3H). m/z (ESI) 544.1 (M+H)+.

reactant | 1-(4-bromo-5-chloro-2-methoxyphenyl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.700 mmol, 0.370 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=C(C=C12)F)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H12BrClFN3O5S
reactant | (3-fluorophenyl)boronic acid | 1.050 mmol, 0.147 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 2.099 mmol, 0.290 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.88 mmol, 0.081 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | racemic 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-7-fluoro-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=C(C=C12)F)S(=O)(=O)NC1=NOC=C1)=O)OC)C1=CC(=CC=C1)F | C25H16ClF2N3O5S
